US07115611B2
To an ice-cooled and stirred solution of 22.8 g (77 mmol) of the above prepared (4-tert-butoxycarbonylamino-2-methyl-phenoxy)-acetic acid methyl ester in 230 ml DMF was added within 10 min 3.7 g (55% in oil, 85 mmol) of NaH and, after 1 h, 14.5 ml (232 mmol) of CH3I. The reaction was stirred at 0° C. for 2 h, neutralized with aqueous 10% KHSO4, and extracted with aqueous 10% KHSO4/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried over sodium sulfate, and evaporated to give 25.8 g of [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid methyl ester.

reactant | (4-tert-butoxycarbonylamino-2-methyl-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)NC(=O)OC(C)(C)C)C)=O | C15H21NO5
reactant | NaH | 85 mmol, 3.7 g | [H-].[Na+]
reactant | CH3I | 232 mmol, 14.5 ml | CI | CH3I
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMF | 230 ml | CN(C)C=O | C3H7NO
product | [4-(tert-butoxycarbonyl-methyl-amino)-2-methyl-phenoxy]-acetic acid methyl ester | 25.8 g | COC(COC1=C(C=C(C=C1)N(C)C(=O)OC(C)(C)C)C)=O | C16H23NO5
